US08114868B2
(R)-6-Methoxymethyl-3-{(S)-1-[4-(1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl)-phenyl]-ethyl}-6-phenyl-[1, 3]oxazinan-2-one
The title compound was prepared from (R)-6-(methoxymethyl)-6-phenyl-3-((S) -1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one and trifluoro-methanesulfonic acid 1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl ester following a procedure analogous to that described in Example 76. Mass spectrum (ESI+): m/z=433 [M+H]+.

reactant | (R)-6-(methoxymethyl)-6-phenyl-3-((S) -1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | COC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C26H34BNO5
reactant | trifluoro-methanesulfonic acid 1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl ester | CN1C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C7H6F3NO4S
product | (R)-6-Methoxymethyl-3-{(S)-1-[4-(1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl)-phenyl]-ethyl}-6-phenyl-[1, 3]oxazinan-2-one | COC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CC(N(C=C1)C)=O)C1=CC=CC=C1 | C26H28N2O4
